US04406828
223 g (1 mol) of 1,1-dimethyl-tetralin-4-carboxylic acid chloride and 11 g of copper (I) iodide are placed in a 1-liter flask provided with a thermometer, stirrer, dropping funnel and reflux condenser and there is allowed to drop in from the dropping funnel at -10° C. to -5° C. a Grignard solution freshly prepared from 27 g (1.1 mol) of magnesium shavings and 122 (1.12 mol) of ethyl bromide in 500 ml of absolute ether. In so doing, the mixture must be diluted with a small amount of ether. The mixture is stirred for a further 5 hours while cooling and then the cooling source is removed. After the mixture has reached room temperature, it is poured into cold, saturated ammonium chloride solution, extracted with ether, washed neutral with water, dried over sodium sulphate and evaporated. Fractional distillation gives 138 g of 1,1-dimethyl-4-propionyl-tetralin of boiling point 75° C./0.05 mmHg; nD20 =1.5263; yield 64%. Ventilation can further improve the olfactory quality. Odour: see (3).

reactant | 1,1-dimethyl-tetralin-4-carboxylic acid chloride | 1 mol, 223 g | CC1(CCC(C2=CC=CC=C12)C(=O)Cl)C | C13H15ClO
reactant | magnesium | 1.1 mol, 27 g | [Mg] | Mg
reactant | ethyl bromide | C(C)Br | C2H5Br
solvent | ether | 500 ml | CCOCC | C4H10O
catalyst | copper (I) iodide | 11 g | [Cu]I
product | 1,1-dimethyl-4-propionyl-tetralin | 138 g, yield 64% | CC1(CCC(C2=CC=CC=C12)C(CC)=O)C | C15H20O
